US04547501
This compound was prepared by the method of Example 11, utilizing 4-chloro-1-methyl-[1,2,4]triazolo[4,3-a]quinoxaline (the product of Example 3) as starting material in place of 4-chloro-[1,2,4]triazolo[4,3-a]quinoxaline (the product of Example 2) and diethylamine as reagent in place of di-n-propylamine. The crude product obtained was recrystallized from chloroform and then from cyclohexane to afford 7.2 g. (54% yield) of pure 4-diethylamino-1-methyl-[1,2,4]triazolo[4,3-a]quinoxaline, m.p. 123°-125° C.

reactant | 4-chloro-1-methyl-[1,2,4]triazolo[4,3-a]quinoxaline | ClC=1C=2N(C3=CC=CC=C3N1)C(=NN2)C | C10H7ClN4
reactant | 4-chloro-[1,2,4]triazolo[4,3-a]quinoxaline | ClC=1C=2N(C3=CC=CC=C3N1)C=NN2 | C9H5ClN4
reactant | diethylamine | C(C)NCC | C4H11N
reactant | di-n-propylamine | C(CC)NCCC | C6H15N
product | 4-diethylamino-1-methyl-[1,2,4]triazolo[4,3-a]quinoxaline | 54% yield | C(C)N(C=1C=2N(C3=CC=CC=C3N1)C(=NN2)C)CC | C14H17N5
